US04137236
151.5 ml of a solution of dimethylforamide containing 2 moles per liter of hydrazine hydrate (0.3025 mole) are added, between 0 and 5° C, to a suspension of 156.3 g (0.275 mole) of tert-butyl 4-benzyloxycarbonyl-alpha-phthalimido-1,8-dithia-3-azaspiro[4.5]decane-2-acetate in 170 ml of anhydrous dimethylformamide. The addition is carried out over 75 minutes and is accompanied by a complete dissolution of the product. The reaction mixture is allowed to return to ambient temperature over a period of 1 hour, whereafter 309 ml of 1N hydrochloric acid are added dropwise at 20 to 25° C. The precipitate of phthaloghydrazide formed is filtered off and the mother liquors are evaporated to dryness. The residue is taken up in methanol and is precipitated with diethyl ether. In this way, there are obtained 119.1 g of tert-butyl alpha-amino-4-benzyloxycarbonyl-1,8-dithia-3-azaspiro[4.5]decane-2-acetate hydrochloride (yield 91.5% of theory); M.P. 178-181° C.

reactant | hydrazine hydrate | 0.3025 mole | O.NN
reactant | tert-butyl 4-benzyloxycarbonyl-alpha-phthalimido-1,8-dithia-3-azaspiro[4.5]decane-2-acetate | 0.275 mole, 156.3 g | C(C1=CC=CC=C1)OC(=O)C1NC(SC12CCSCC2)C(C(=O)OC(C)(C)C)N2C(C=1C(C2=O)=CC=CC1)=O | C29H32N2O6S2
reactant | hydrochloric acid | 1N, 309 ml | Cl | ClH
solvent | dimethylformamide | 170 ml | CN(C=O)C | C3H7NO
solvent | dimethylforamide | 2 moles per liter | CN(C=O)C | C3H7NO
product | tert-butyl alpha-amino-4-benzyloxycarbonyl-1,8-dithia-3-azaspiro[4.5]decane-2-acetate hydrochloride | 119.1 g, yield 91.5% | Cl.NC(C(=O)OC(C)(C)C)C1SC2(C(N1)C(=O)OCC1=CC=CC=C1)CCSCC2 | InChI=1S/C21H30N2O4S2.ClH/c1-20(2,3)27-18(24)15(22)17-23-16(21(29-17)9-11-28-12-10-21)19(25)26-13-14-7-5-4-6-8-14;/h4-8,15-17,23H,9-13,22H2,1-3H3;1H
